Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Niacin / Bextra / Tessalon / Fosamax / Hydromorphone / NSAIDS / 
ibuprofen / omeprazole / ranitidine
 
Attending: ___.
 
Chief Complaint:
fever, anorexia, generalized weakness, acute on chronic R>L low 
back pain 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ h/o vascular dementia, recent admissions ___ for fevers 
and CP felt to be from PNA and before that an admission in 
___ for TAVR c/b heart block requiring pacemaker, presents 
with fevers and right flank pain. Per report fever up to 101.9 
last night. Pain started this morning and described as sharp and 
radiating to the right upper and lower abdomen and reminds her 
of the pain she felt during her recent admission for PNA. She 
took 2 percocet this morning with some relief. Denies HA, 
myalgias, CP, SOB, cough, nausea, diarrhea or dysuria. She has 
recently been treated for PNA. 

She was admited ___ for chest pain and fevers which was felt 
to be from PNA. She was treated with levofloxacin for 5 days 

She was also admitted ___ for TAVR c/b complete heart block 
requiring pacemaker placement and hypotension from femoral bleed 

after pulling the catheter sheath for which he required blood 
transfusions. There was also concern pt had acalculous 
cholecystitis given CT torso from ___ showing significant 
gallbladder distention, pericholecystic fluid, and adjacent fat 
stranding, concerning for acute cholecystitis. Pt was not 
treated with antibiotics and no intervention was done. In 
addition she developed C dif and was treated with flagyl

In the ED, initial vitals: 100.0 76 122/105 20 100%  
exam: RUQ and RLQ tenderness without rebound or guarding
Labs notable for: wbc 13  Ht 33 plat 592, lactate 2.2 LFTs wnl
Imaging: CTU (prelim read) showed mildly distended gallbladder 
without fat stranding improved from prior imaging.
CXR
Patient was given 1 L NS, levoflox, and her home medications 
Vitals prior to transfer:98.2 83 122/57 18 98% RA 

Collateral per husband, ___:  ___ appetite and 
generalized weakness for the last month since her procedure. 
Also she has had pain in R lower back for the past few days. She 
has chronic aches and pains in her lower back that she takes 
percocets for, this pain is similar, not cause has been found. 
He spoke with PCP ___ after he noted temp 101.4 
Wedensday pm (in mouth), so he took her to ED yesterday. No sick 
contacts. Has ___. Not sure when she finished recent levaquin 
and flagyl. 

On arrival to the floor she complains of decreased appetite, 
generalized weakness, low back pain that is acute on chronic, 
cough productive of clear sputum for the past few days. No BM x3 
days but thinks she has "leaking" from her anus and recently 
noted a very large anus "big enough to put my hold arm in, but I 
think it got smaller now". She has been packing it with toilet 
paper since it is leaking.  Denies f/c/s, n/v/d, dysuria. 

 
Past Medical History:
s/p TAVR and pacemaker placement ___ c/b complete heart block 
(now with pacer) and hypotension ___ to bleeding at the right 
femoral artery puncture 
1. Hyperlipidemia - borderline  
2. Borderline QTC prolongation  
3. Chronic back/shoulder/knee pain  
4. Depression  
6. Gastritis  
7. Severe belching  
8. DJD  
9. Memory loss/possible vascular dementia  
10. Hx of Hallucinations - improved with decreased Roxicet dose  

11. Osteoarthritis  
12. Allergic Rhinitis  
13. External/Internal Hemorrhoids  
14. Scoliosis  
15. s/p right TKR  
17. s/p hysterectomy  
18. Right Rotator cuff repair  
19. Sacroilitis  
20. UTI ___ completed course of Cipro  
21. MVA ___  
22. Depression  

 
Social History:
___
Family History:
Mother had CVA in her ___. Father died in his ___.  Brother had 

cancer. She has three brothers, four sisters, four sons and one 
daughter.  She does not know much about her family history, but 
is not aware of any history of hypertension, hyperlipidemia, 
early coronary artery disease, or sudden cardiac death 

 
Physical Exam:
Admission:
Vitals: 98.6, 119/45, 74, 20, 96%RA
General: AAOx3, comfortable appearing, in NAD
HEENT: NCAT, EOMI, PERRL. Sclera anicteric, conjunctiva pink. 
MMM. OP clear.
Neck: supple, no LAD, no JVP elevation
Lungs: CTAB, no w/r/r
CV: RRR, normal S1 and S2, no m/g/r. Pulsus 4mmHg
Abdomen: NABS, soft, nondistended, nontender. No HSM.
GU: no foley
MS: Tender to deep palpation in R lower back more than L lower 
back, negative straight leg raise. Calves are tender to deep 
palpation bilaterally, no palpable cords, no 
edema/erythema/warmth. No pain to palpation of spine. 
Ext: WWP. 2+ peripheral pulses. No edema.
Neuro: CNs II-XII intact. MAEE. Grossly normal strength and 
sensation.
Rectal visual examination: 5mm rectal skin tag vs. old external 
hemmorhoid, no rectal prolapse, toilet paper stuffed in 
underwear which is dry, no stool apparent. 

DISCHARGE:
Vitals: 98.3 117/57 59 18 100RA
General: AAOx3, comfortable upright in bed
HEENT: NCAT, MMM
Neck: supple without LAD
Lungs: Generally CTA b/l
CV: RRR, normal S1 and S2, no m/g/r
Abdomen: Soft, non-tender, non-distended
GU: no foley
MS: Mild tenderness to deep palpation overlying right flank 
Ext: No edema
Neuro: Cn II-XII grossly intact 

 
Pertinent Results:
___ 08:53PM BLOOD WBC-13.1*# RBC-3.82* Hgb-10.7* Hct-33.0* 
MCV-87 MCH-27.9 MCHC-32.3 RDW-15.3 Plt ___
___ 08:53PM BLOOD Neuts-80.0* Lymphs-12.5* Monos-5.1 
Eos-2.2 Baso-0.1
___ 10:16PM BLOOD ___ PTT-32.1 ___
___ 08:53PM BLOOD Glucose-170* UreaN-14 Creat-0.6 Na-136 
K-4.1 Cl-96 HCO3-27 AnGap-17
___ 08:53PM BLOOD ALT-13 AST-22 AlkPhos-79 TotBili-0.5
___ 01:40PM BLOOD ALT-12 AST-21 LD(LDH)-251* CK(CPK)-27* 
AlkPhos-70 TotBili-0.4
___ 08:53PM BLOOD Albumin-3.2*
___ 01:40PM BLOOD Albumin-2.8* Calcium-8.4 Phos-3.6 Mg-1.9
___ 01:40PM BLOOD %HbA1c-5.7 eAG-117
___ 01:40PM BLOOD CRP-141.7*
___ 09:04PM BLOOD Lactate-2.2*
___ 02:04PM BLOOD Lactate-1.7
___ 01:40PM BLOOD SED RATE-Test    

Discharge Labs:
___ 06:00AM BLOOD WBC-7.7 RBC-3.43* Hgb-10.0* Hct-29.8* 
MCV-87 MCH-29.1 MCHC-33.5 RDW-15.6* Plt ___
___ 06:00AM BLOOD Neuts-59.8 ___ Monos-6.0 Eos-6.3* 
Baso-0.3

CXR
1.  PREVIOUS MILD PULMONARY EDEMA RESOLVED. 
2. Small bilateral pleural effusions 

CT Urogram
1. No evidence of renal, ureteral, or bladder calculi. 
2. No evidence of acute cholecystitis. 
3. Small bilateral pleural effusions left greater than right and 
small 
pericardial effusion, overall mildly increased from ___. 

 
Brief Hospital Course:
___ h/o vascular dementia, recent admissions ___ for fevers 
and CP felt to be from PNA and before that an admission in 
___ for TAVR c/b heart block requiring pacemaker c/b c. 
diff, presents with report of fever, elevated inflammatory 
markers, malaise/anorexia and acute on chronic low back pain. 

#Fever, generalized weakness, anorexia. One fever reported at 
home to 101.4 2 days prior to admission per husband. No 
documented fevers while here. In ED WBC 13, lactate 2.2, HDS.  
WBC normalized. UA clean, CXR clean. Had recent course of 
levaquin for pneumonia, now only with mild cough and clear 
sputum; PNA seems unlikely.  CTU (originally ordered for ? flank 
pain in ED) unrevealing except pericardial effusion; present 
since her TAVR, but appears to be possibly increasing on current 
CT. No severe or positional CP, EKG is v-paced, ECHO ___ without 
worsened effusion, but still would consider pericarditis given 
no other obvious cause for fever and systemic inflammation and 
enlarging effusion on CT (although this can be over-read).  CK 
currently low, no myositis. PMR still on the ddx given elevated 
ESR/CRP and tender proximal/girdle muscles. Adrenal insuff 
unlikely, no hypotension, weight loss, eosinophilia but could 
consider if nothing else turns up. Recent TSH normal. Anemia 
could be contributing to weakness, but is not severe. 
Patient will follow up with PCP, ___.

#Acute on chronic low back pain.  Per husband and patient she 
gets many aches and pains including low back pain similar to 
what she has now, usually responds to percocets at home.  Since 
her surgery she has had decreased energy and has been more 
sedentary, this may be contributing to her musculoskeletal low 
back pain. No evidence that this is pyelo, renal calculi, or 
neurologic.  CK low, not myositis. She is a difficult historian, 
but on exam was tender throughout the pelvic girdle, in this 
clinical setting this raises concern for PMR as above, and would 
consider rheumatology evaluation as an outpatient. 

#AS s/p TAVR c/b CHB with PPM. Continued ASA/plavix. Per Dr. 
___ will call ___ to overbook in clinic next 
___, patient will call Dr. ___ phone to touch 
base.  Repeat ECHO if Dr. ___ it is indicated.

#Anemia. Has been anemic since ___ after TAVR likely ___ 
blood loss, received 4u RBC's that admission, and additional 1u 
RBC ___ during last admission. Hgb currently 10.7 up from 8's 
suggesting appropriate response to recent transfusion, and 
likely hemoconcentrated now. Recent iron studies show replete 
iron stores and likely low available iron in setting of 
inflammation. B12 not current but has been normal in the past. 
Recent haptoglobin high. Retic index recently low, marrow likely 
suppressed in setting of inflammation. Complains of hemmorhoids 
requiring surgery, but currently no symptoms. Stable HCT while 
here.

#Hyperglycemia, no known dx of DM. A1C 5.7.  Current glucoses 
160's-170's, perhaps ___ stress response/inflammation.

#HTN. Held home hctz while here.

Chronic/inactive issues:

#HLD
-cont statin

#Depression
-cont citalopram, gabapentin

#Dementia
-cont donepezil 

Transitional Issues:
-as above given elevated inflammatory markers without source of 
infection,  anemia of inflammation, pelvic girdle pain, likely 
reactive thrombocytosis, would consider polymyalgia rheumatica 
and rheumatologic evaluation.  Doubt that pericardial effusion 
is responsible for all of her symptoms, but she will see Dr. 
___ week and get an ECHO if he feels it will be helpful. 
Would also consider adrenal insufficiency if no other cause for 
her symptoms is identified. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Citalopram 30 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Donepezil 10 mg PO QHS 
6. Gabapentin 300 mg PO DAILY 
7. Hydrochlorothiazide 12.5 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. calcium carbonate-vitamin D3 500-100 mg-unit oral daily 
12. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Citalopram 30 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Donepezil 10 mg PO QHS 
6. Gabapentin 300 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 
9. Polyethylene Glycol 17 g PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. calcium carbonate-vitamin D3 500-100 mg-unit oral daily 
12. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Fever
- Right lower back pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital because you had a fever,  
generalized weakness, pain in your lower back, and lack of 
appetite. We did not find a cause for your symptoms, and we did 
not find a source of infection. While here you did not have any 
fevers.  You should follow up with your primary care doctor and 
with Dr. ___. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___